US04117225
Reacting diethyl-N-benzhydryliminodiacetate with hydrazine hydrate in the presence of methanol at reflux temperature and a reaction time of 20 hours to afford 5-diphenylmethyl-3,7-diketo-1,2-dihydro-1,2,5-triazepine.

reactant | diethyl-N-benzhydryliminodiacetate | C(C)C(C(=O)[O-])N(C(C1=CC=CC=C1)C1=CC=CC=C1)C(C(=O)[O-])CC
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | 5-diphenylmethyl-3,7-diketo-1,2-dihydro-1,2,5-triazepine | C1(=CC=CC=C1)C(N1CC(NNC(C1)=O)=O)C1=CC=CC=C1 | C17H17N3O2
